US03937833
A solution of 13.1 g (0.075 mole) of 4-piperidinobutyl chloride in 100 ml of toluene is added to a mixture of 4.9 g (0.025 mole) of 2,7-dihydroxyfluorene and 2.7 g (0.05 mole) of sodium methoxide in 200 ml of toluene. The mixture is refluxed with stirring for 12 hours. Upon cooling, the mixture is filtered to remove the precipitated sodium chloride. The toluene solution is washed with water, then with sodium chloride solution and dried over anhydrous magnesium sulfate. This mixture is filtered and the filtrate acidified to Congo Red with ethereal HCl. Teh precipitate is collected and recrystallized from butanonemethanol to give 2,7-bis(4-piperidinobutoxy)fluorene dihydrochloride.

reactant | 4-piperidinobutyl chloride | 0.075 mole, 13.1 g | N1(CCCCC1)CCCCCl | C9H18ClN
reactant | 2,7-dihydroxyfluorene | 0.025 mole, 4.9 g | OC1=CC=2CC3=CC(=CC=C3C2C=C1)O | C13H10O2
reactant | sodium methoxide | 0.05 mole, 2.7 g | C[O-].[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2,7-bis(4-piperidinobutoxy)fluorene dihydrochloride | Cl.Cl.N1(CCCCC1)CCCCOC1=CC=2CC3=CC(=CC=C3C2C=C1)OCCCCN1CCCCC1 | InChI=1S/C31H44N2O2.2ClH/c1-3-15-32(16-4-1)19-7-9-21-34-28-11-13-30-26(24-28)23-27-25-29(12-14-31(27)30)35-22-10-8-20-33-17-5-2-6-18-33;;/h11-14,24-25H,1-10,15-23H2;2*1H
